US07582625B2
Ethyl ([1,4′]bipiperidinyl-4-yloxy)-acetate
2.90 g (13.3 mmol) NaBH(OAc)3 were added batchwise to a solution of 2.58 g (11.1 mmol)) tert. butyl 4-oxo-piperidine-1-carboxylate and 2.80 g (12.4 mmol) tert. butyl (piperidin-4-yloxy)-acetate in 30 mL THF and the reaction mixture was stirred overnight at RT. 50 mL of 1 M NaOH was added, the mixture was stirred for 1 h at RT, extracted exhaustively with EtOAc and the combined organic phases were dried on Na2SO4. After the elimination of the desiccant and solvent the residue was purified by chromatography (Alox, activity stage II-III, DCM/MeOH 100:1).

reactant | NaBH(OAc)3 | 13.3 mmol, 2.90 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | tert. butyl 4-oxo-piperidine-1-carboxylate | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | tert. butyl (piperidin-4-yloxy)-acetate | 12.4 mmol, 2.80 g | N1CCC(CC1)OCC(=O)OC(C)(C)C | C11H21NO3
reactant | NaOH | 1 M, 50 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Ethyl ([1,4′]bipiperidinyl-4-yloxy)-acetate | N1(CCC(CC1)OCC(=O)OCC)C1CCNCC1 | C14H26N2O3
